US07273871B2
4-Hydroxy-6-methyl-2-oxo-1,2-dihydro-pyridine-3-carboxylic acid ethyl ester
In a 22 L vessel fitted with a mechanical stirrer and distillation head was charged 2.5 L (16.47 mol) diethyl malonate followed by 4.0 L diphenyl ether. Agitation was started and 1.12 Kg (16.47 mol, 1 eq) of sodium ethoxide was added via a powder funnel. The mixture was gradually, heated to 160° C. and the liberated ethanol was removed via distillation, approximately 950 mL. After 30 min, ethanol distillation ceased and 2.127 Kg (16.47 mol, 1 eq) of 3-amino-but-2-enoic acid ethyl ester was added, and the resulting ethanol formed removed via distillation. After 30 minutes the mechanical stirrer could no longer stir the foamy mass. At this point, external heating was ceased and the mixture allowed to cool to ambient temperature. To the mixture was charged 4 L of methyl-tert-butyl ether (MTBE) and the granular solid broken up with a spatula. The solid was filtered and washed with MTBE. To the solid was then added 100 mL of conc. HCl and 2 L of chloroform to solublize the mixture. The mixture was then taken up three times in 4 L chloroform, and decanted into a 20 L bucket. The combined organic phases were dried over sodium sulfate. The mixture was concentrated in vacuo to afford an orange gummy mass, which was triturated with MTBE and filtered, washing the filter cake with MTBE. The resulting solid was recrystallized from ethanol to afford the desired product as pinkish needles.

reactant | diethyl malonate | 16.47 mol, 2.5 L | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | diphenyl ether | 4.0 L | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | sodium ethoxide | 16.47 mol, 1.12 Kg, 1 eq | [O-]CC.[Na+]
reactant | 3-amino-but-2-enoic acid ethyl ester | 16.47 mol, 2.127 Kg, 1 eq | C(C)OC(C=C(C)N)=O | C6H11NO2
solvent | ethanol | C(C)O | C2H6O
product | 4-Hydroxy-6-methyl-2-oxo-1,2-dihydro-pyridine-3-carboxylic acid ethyl ester | 46% yield | C(C)OC(=O)C=1C(NC(=CC1O)C)=O | C9H11NO4
